US08791142B2
Step 3) methyl 2′-fluoro-2-(methoxymethyl)biphenyl-4-carboxylate
To a solution of methyl 4-bromo-3-(methoxymethyl)benzoate (10 g, 38.6 mmol) in toluene (80 mL) and water (20 mL) under nitrogen was added 2-fluorophenylboronic acid (7.0 g, 50.2 mmol), followed by potassium carbonate (16 g, 115.8 mmol) and Pd(PPh3)4 (2.23 g, 1.9 mmol). After 3 hours at 100° C., the reaction mixture was diluted with EtOAc (200 mL) and washed with a saturated aqueous solution of NaHCO3 (100 mL), water (2×100 mL) and brine. The organic layer was dried (Na2SO4) and concentrated under reduced pressure. The residue was purified by chromatography (silica, pet ether/EtOAc) to afford of the title compound as a pale yellow oil. 1H NMR (CDCl3, 400 MHz) δ 8.26 (1H, s), 8.04 (1H, d), 7.42 (1H, m), 7.35 (1H, d), 7.14-7.27 (3H, m), 4.34 (2H, s), 3.95 (3H, s), 3.30 (3H, s).

reactant | methyl 4-bromo-3-(methoxymethyl)benzoate | 38.6 mmol, 10 g | BrC1=C(C=C(C(=O)OC)C=C1)COC | C10H11BrO3
reactant | 2-fluorophenylboronic acid | 50.2 mmol, 7.0 g | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | potassium carbonate | 115.8 mmol, 16 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 20 mL | O | H2O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 1.9 mmol, 2.23 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 2′-fluoro-2-(methoxymethyl)biphenyl-4-carboxylate | FC1=C(C=CC=C1)C1=C(C=C(C=C1)C(=O)OC)COC | C16H15FO3
